2143-08-28 22:39:00 Physician Attending Progress Note
Chief Complaint: EtOH withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62W admitted to detox 2 days ago - transferred here because worsening
   withdrawal symptoms. In ER tachy to 140, agitated, tremulous. Given
   solumedrol for wheezing and benzos and improved. Remains anxious in
   MICU and wants to return to detox center.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   EtOH abuse
   alcohol hepatitis
   COPD
   [**Doctor Last Name 3479**]
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Gastrointestinal: Emesis
   Flowsheet Data as of  [**2143-8-28**] 10:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 101 (101 - 101) bpm
   BP: 143/94(104) {143/87(99) - 149/94(104)} mmHg
   RR: 17 (17 - 17) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, edema
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   95
   0.6
   43
        [image002.jpg]
   Other labs: ALT / AST:132/102, Alk Phos / T Bili:/0.6
   Fluid analysis / Other labs: neg tox
   TSH pending
   Imaging: CXR clear
   ECG: NSR 74, unremarkable
   Assessment and Plan
   Acute EtOH withdrawal - on valium CIWA, gentle IVF, thiamine - eventual
   transfer back to detox
   COPD - as needed bronchodilators
   emesis - resolved, follow
   abnormal LFTs - hep serologies pending, follow
   ICU Care
   Nutrition: normal
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-08-29 07:03:00 Physician Resident Progress Note
Chief Complaint: Alcohol withdrawal
   24 Hour Events:
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-29**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 96 (85 - 116) bpm
   BP: 130/113(117) {102/55(59) - 149/113(117)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    525 mL
                                                                    811 mL
   PO:
             TF:
   IVF:
                                                                    525 mL
                                                                    811 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                  1,300 mL
   Urine:
                                                                    900 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -375 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: anxious, sitting up in bed
   Neck: no enlarged thyroid, no neck tenderness
   CV: tachycardic, regular rate, no m/r/g, 2+ radial and pedal pulses
   Resp: CTAB, no w/r/r
   Abd: soft, NT, ND, + BS
   Skin:  warm
   Neurologic: responds to verbal stimuli, oriented to person and place
   only, no visual/auditory hallucinations but thoughts were somewhat
   scattered, no hyper-reflexia
   Labs / Radiology
   87 K/uL
   14.5 g/dL
   221 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   6 mg/dL
   100 mEq/L
   138 mEq/L
   42.1 %
   3.4 K/uL
        [image002.jpg]
                             [**2143-8-28**]  10:15 PM
   WBC
   3.4
   Hct
   42.1
   Plt
   87
   Cr
   0.6
   Glucose
   221
   Other labs: PT / PTT / INR:13.0/24.9/1.1, ALT / AST:127/101, Alk Phos /
   T Bili:130/0.6, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: [**2143-8-28**] CXR:  No acute cardiopulmonary process
   Microbiology: None
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 LIVER FUNCTION ABNORMALITIES
   62 F with COPD and EtOH dependence presenting with delerium tremens.
   #  EtOH WITHDRAWAL: Currently at peak of withdrawal period.  No
   evidence of alternate causes for tremor and confusion, such as
   infection, intoxication, or trauma.
   - Valium 10 mg PRN CIWA > 10
   - IVF x 1L
   - SW consult.
   # COPD: Somewhat wheezy on admission, but no evidence for acute
   exacerbation.  Currently assymptomatic and moving good air.  Likely
   mild COPD given that she is not on medications and admission bicarb was
   normal.
   - ipratroprium PRN
   - hold on further systemic steroids
   #  Emesis: No history of blood and guiac negative.  Given EtOH and
   liver disease, there is concern for [**Doctor First Name 331**]-[**Doctor Last Name **] or varices.
   - trend Hct
   - hold specimin at blood bank
   - antiemetics PRN
   - outpatient liver f/u
   #  Elevated liver function tests: ALT>AST atypical for alcohol-related
   liver disease.  Unclear if acute vs chronic, given prior history.  Low
   platelets suggest chronic process.
   - Hepatitis serologies
   - continue to trend
   #  History of [**Doctor Last Name 3479**]
   - TSH < 0.02
   - Total T4 and T3 normal. Will check free T4
   - Obtain PCP records of when it was treated and any recent recurrence
   and her future follow up for this issue
   #Tachycardia: Likely a component of alcohol withdrawal since it is
   intermittent. Could also be due to hyperthyroid state.
   -Monitor for improvement as alcohol withdrawal is treated.
   - Get free T4
   # FEN: IVF as needed, replete electrolytes, regular diet
   # Communication: Patient and husband [**Name (NI) 1623**] ([**Telephone/Fax (1) 7387**]
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2143-8-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2143-08-30 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events o/n.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-30**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 85 (85 - 139) bpm
   BP: 115/75(118) {113/73(85) - 153/97(118)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,253 mL
                                                                    498 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,713 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    900 mL
   Urine:
                                                                  3,000 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -747 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   14.9 g/dL
   169 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.0 mEq/L
   7 mg/dL
   105 mEq/L
   141 mEq/L
   44.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2143-8-28**]  10:15 PM
                             [**2143-8-29**]  05:28 AM
                             [**2143-8-30**]  01:33 AM
   WBC
   3.4
   6.0
   8.7
   Hct
   42.1
   44.8
   44.7
   Plt
   87
   97
   112
   Cr
   0.6
   0.6
   0.7
   Glucose
   221
   159
   169
   Other labs: PT / PTT / INR:12.2/23.2/1.0, ALT / AST:112/82, Alk Phos /
   T Bili:116/0.7, Differential-Neuts:67.3 %, Lymph:25.5 %, Mono:3.5 %,
   Eos:3.5 %, Albumin:4.4 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 LIVER FUNCTION ABNORMALITIES
   62 F with COPD and EtOH dependence presenting with delerium tremens.
   #  EtOH WITHDRAWAL: Currently at peak of withdrawal period.  No
   evidence of alternate causes for tremor and confusion, such as
   infection, intoxication, or trauma.
   - No valium requirement
   - SW consult, consider Psych involvement if needed.
   #  History of [**Doctor Last Name 3479**]
   - Free T4 elevated and TSH undetectable.
   -call endocrinologist
   -no B-Blocker since HR coming down.
   #  Elevated liver function tests: ALT>AST atypical for alcohol-related
   liver disease.  Unclear if acute vs chronic, given prior history.  Low
   platelets suggest chronic process.
   - Hepatitis serologies negative
   - INR normal
   - down from yesterday
   # COPD: Somewhat wheezy on admission, but no evidence for acute
   exacerbation.  Currently assymptomatic and moving good air.  Likely
   mild COPD given that she is not on medications and admission bicarb was
   normal.
   - ipratroprium PRN
   - hold on further systemic steroids
   #  Emesis: No history of blood and guiac negative.  Given EtOH and
   liver disease, there is concern for [**Doctor First Name 331**]-[**Doctor Last Name **] or varices.
   - trend Hct
   - hold specimin at blood bank
   - compazine/zofran
   - outpatient liver f/u
   # FEN: No IVF, replete K+, regular diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-30**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: